US05059689
12.5 g of 2-chloro-4-isopropyloxy-6-(2,2,6,6-tetramethylpiperidin-1-yl)-1,3,5-triazine and 5.5 g of dibutylamine are dissolved in 100 ml of xylene. After addition of a solution of 1.8 g of sodium hydroxide in 10 ml of water, the water is slowly removed by distillation in a water separator under a weak flow of nitrogen. The contents of the flask are subsequently stirred at 135° for about 16 hours. The mixture is allowed to cool somewhat, 50 ml of water are added to the contents of the flask and the mixture is stirred vigorously for 10 minutes. The aqueous phase is separated off and the organic layer is washed four times, each with 50 ml of water, dried over sodium sulfate and completely evaporated in vacuo. The 2-isopropyloxy-4-dibutylamino-6-(2,2,6,6-tetramethylpiperidin-1-yl)-1,3,5-triazine obtained is a weakly yellowish resin.

reactant | 2-chloro-4-isopropyloxy-6-(2,2,6,6-tetramethylpiperidin-1-yl)-1,3,5-triazine | 12.5 g | ClC1=NC(=NC(=N1)OC(C)C)N1C(CCCC1(C)C)(C)C | C15H25ClN4O
reactant | dibutylamine | 5.5 g | C(CCC)NCCCC | C8H19N
reactant | sodium hydroxide | 1.8 g | [OH-].[Na+]
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | 10 ml | O | H2O
product | 2-isopropyloxy-4-dibutylamino-6-(2,2,6,6-tetramethylpiperidin-1-yl)-1,3,5-triazine | C(C)(C)OC1=NC(=NC(=N1)N(CCCC)CCCC)N1C(CCCC1(C)C)(C)C | C23H43N5O
